US07528147B2
A mixture of 2.3 g of 5-fluoro-1H-pyrrolo[2,3-b]pyridine, 3.54 g of 4-methylbenzenesulfonyl chloride, 7.56 g of sodium hydroxide dissolved in 55 ml of water, and 0.115 g of tetrabutylammonium hydrogen sulfate in 125 ml of toluene is agitated at around 20° C. for approximately 24 hours. The mixture is diluted with 500 ml of ethyl acetate; the organic phase is washed with three times 200 ml of water, dried over magnesium sulfate, filtered, and concentrated to dryness under reduced pressure (13 kPa). The residue is purified by flash chromatography on a silica column [eluent: dichloromethane]. 3.85 g of 5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine are obtained in the form of a solid, the characteristics of which are as follows:

reactant | 5-fluoro-1H-pyrrolo[2,3-b]pyridine | 2.3 g | FC=1C=C2C(=NC1)NC=C2 | C7H5FN2
reactant | 4-methylbenzenesulfonyl chloride | 3.54 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | sodium hydroxide | 7.56 g | [OH-].[Na+]
solvent | water | 55 ml | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 0.115 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 3.85 g | FC=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C14H11FN2O2S
